US05070103
2-bromo-3,4,5-trimethoxybenzaldehyde dimethylacetal and 3-methoxy-4-ethoxybenzaldehyde are reacted in the same manner as described in Example 1-(1), whereby 2-(3-methoxy-4-ethoxy-α-hydroxybenzyl)-3,4,5-trimethoxybenzaldehyde dimethylacetal is obtained as colorless syrup. Yield: 84%

reactant | 2-bromo-3,4,5-trimethoxybenzaldehyde dimethylacetal | COC(C1=C(C(=C(C(=C1)OC)OC)OC)Br)OC | C12H17BrO5
reactant | 3-methoxy-4-ethoxybenzaldehyde | COC=1C=C(C=O)C=CC1OCC | C10H12O3
product | 2-(3-methoxy-4-ethoxy-α-hydroxybenzyl)-3,4,5-trimethoxybenzaldehyde dimethylacetal | Yield: 84% | COC(C1=C(C(=C(C(=C1)OC)OC)OC)C(C1=CC(=C(C=C1)OCC)OC)O)OC | C22H30O8
